US07855290B2
N-{3-Fluoro-4-[(2-{[(3-hydroxyazetidin-1-yl)carbonyl]amino}pyridin-4-yl)oxy]phenyl}-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide
N-{4-[(2-Aminopyridin-4-yl)oxy]-3-fluorophenyl}-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide (250 mg) was dissolved in tetrahydrofuran (6.0 ml) under a nitrogen atmosphere, and triethylamine (0.247 ml) and phenyl chloroformate (0.163 ml) were added dropwise in this order at room temperature, followed by stirring for 30 min. The reaction mixture was stirred after addition of ethyl acetate and water. The organic layer was separated, washed with a 1N aqueous solution of sodium hydroxide, water and brine in this order, and dried over anhydrous sodium sulfate. The solvent was concentrated under reduced pressure. The residue was dissolved in N,N-dimethylformamide (6.0 ml). Triethylamine (0.822 ml) and 3-hydroxyazetidine hydrochloride (259 mg) were added at room temperature, followed by stirring overnight. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with a 1N aqueous solution of sodium hydroxide, water and brine in this order, and dried over anhydrous sodium sulfate. The solvent was concentrated under reduced pressure. The resultant residue was purified by silica gel column chromatography (eluent; ethyl acetate, ethyl acetate:methanol=95:5, 9:1). Fractions containing the target compound were concentrated under reduced pressure. To the resultant residue was added tert-butyl methyl ether:heptane=1:2 to precipitate a solid. The solid was collected by filtration and dried under aeration to provide the titled compound as white powder (173.7 mg, 56%).

reactant | N-{4-[(2-Aminopyridin-4-yl)oxy]-3-fluorophenyl}-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide | 250 mg | NC1=NC=CC(=C1)OC1=C(C=C(C=C1)NC(=O)C1(CC1)C(=O)NC1=CC=C(C=C1)F)F | C22H18F2N4O3
reactant | triethylamine | 0.247 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 0.163 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 6.0 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | N-{3-Fluoro-4-[(2-{[(3-hydroxyazetidin-1-yl)carbonyl]amino}pyridin-4-yl)oxy]phenyl}-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide | 173.7 mg, 56% | FC=1C=C(C=CC1OC1=CC(=NC=C1)NC(=O)N1CC(C1)O)NC(=O)C1(CC1)C(=O)NC1=CC=C(C=C1)F | C26H23F2N5O5
